US09416115B2
5-Bromo-3-(pyrimidin-2-ylmethoxy)benzo[d]isoxazole (120 mg, 0.39 mmol), 4-(trifluoromethoxy)phenylboronic acid (120 mg, 0.58 mmol), potassium carbonate (500 mg), and [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (25 mg, 0.034 mmol) were combined in 6 mL DMF. 3 mL water was added and the mixture was stirred at 80° C. for two hours. The reaction mixture was diluted with 60 mL ethyl acetate, washed with water and brine and evaporated under vacuum. Flash chromatographic purification on 12 g silica gel with 0-60% ethyl acetate in hexane gave 3-(pyrimidin-2-ylmethoxy)-5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazole (94 mg, 0.24 mmol).

reactant | 5-Bromo-3-(pyrimidin-2-ylmethoxy)benzo[d]isoxazole | 0.39 mmol, 120 mg | BrC=1C=CC2=C(C(=NO2)OCC2=NC=CC=N2)C1 | C12H8BrN3O2
reactant | 4-(trifluoromethoxy)phenylboronic acid | 0.58 mmol, 120 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 3 mL | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.034 mmol, 25 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(pyrimidin-2-ylmethoxy)-5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazole | 0.24 mmol, 94 mg | N1=C(N=CC=C1)COC1=NOC2=C1C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F | C19H12F3N3O3
